US04654353
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(2-pyrimidinyloxy)ethoxymethyl]-1,4-dihydropyridine
Sodium hydride (90 mg. of an 80% by weight dispersion in oil) was added to a solution of 4-(2-chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-3-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.60 g) in tetrahydrofuran (20 ml) and the mixture stirred at room temperature for 45 minutes and then treated with 2-chloropyrimidine (0.17 g). The mixture was stirred at room temperature for 3 days and evaporated. The residue was dissolved in ethyl acetate and the solution washed successively with 2M hydrochloric acid, 5% aqueous sodium carbonate solution and brine, dried over MgSO4 and evaporated. The residue was crystallised from ether to give the title compound (90 mg), m.p. 101°.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-(2-chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-3-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.60 g | ClC1=C(C=CC=C1)C1C(C(NC(=C1)C)COCCO)(C(=O)OC)C(=O)OCC | C20H26ClNO6
reactant | 2-chloropyrimidine | 0.17 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(2-pyrimidinyloxy)ethoxymethyl]-1,4-dihydropyridine | 90 mg | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCOC1=NC=CC=N1)C(=O)OCC | C24H26ClN3O6
